US06482829B2
1-Benzyl-8-(3,5-bis-trifluoromethyl-benzoyl)-3-(2-pyrrolidin-1-yl-ethyl)-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride
The title compound, MS: m/e=583.2 (M+H+), was prepared in accordance with the general method of example 71 from 1-benzyl-8-(3,5-bis-trifluoromethyl-benzoyl)-1,3,8-triaza-spiro[4.5]decan-4-one and 1-(2-chloroethyl)-pyrrolidine.

reactant | 1-benzyl-8-(3,5-bis-trifluoromethyl-benzoyl)-1,3,8-triaza-spiro[4.5]decan-4-one | C(C1=CC=CC=C1)N1CNC(C12CCN(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)=O | C23H21F6N3O2
reactant | 1-(2-chloroethyl)-pyrrolidine | ClCCN1CCCC1 | C6H12ClN
product | 1-Benzyl-8-(3,5-bis-trifluoromethyl-benzoyl)-3-(2-pyrrolidin-1-yl-ethyl)-1,3,8-triaza-spiro[4.5]decan-4-one hydrochloride | Cl.C(C1=CC=CC=C1)N1CN(C(C12CCN(CC2)C(C2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)=O)=O)CCN2CCCC2 | InChI=1S/C29H32F6N4O2.ClH/c30-28(31,32)23-16-22(17-24(18-23)29(33,34)35)25(40)37-12-8-27(9-13-37)26(41)38(15-14-36-10-4-5-11-36)20-39(27)19-21-6-2-1-3-7-21;/h1-3,6-7,16-18H,4-5,8-15,19-20H2;1H
